US03962249
trans-1-(3-Phenylpropyl)-2,5-dimethyl-4-(2-methyl-3-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 2 from a mixture of trans-1-(3-phenylpropyl)-2,5-dimethylpiperazine, 2-methyl-3-furoyl chloride and benzene.

reactant | trans-1-(3-phenylpropyl)-2,5-dimethylpiperazine | C1(=CC=CC=C1)CCCN1[C@H](CN[C@@H](C1)C)C | C15H24N2
reactant | 2-methyl-3-furoyl chloride | CC=1OC=CC1C(=O)Cl | C6H5ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | trans-1-(3-Phenylpropyl)-2,5-dimethyl-4-(2-methyl-3-furoyl)piperazine hydrochloride | Cl.C1(=CC=CC=C1)CCCN1[C@H](CN([C@@H](C1)C)C(=O)C1=C(OC=C1)C)C | InChI=1S/C21H28N2O2.ClH/c1-16-15-23(21(24)20-11-13-25-18(20)3)17(2)14-22(16)12-7-10-19-8-5-4-6-9-19;/h4-6,8-9,11,13,16-17H,7,10,12,14-15H2,1-3H3;1H/t16-,17+;/m0./s1
